*---------- DMG6968UQ Spice Model ----------
.SUBCKT DMG6968UQ 10 20 30 
* TERMINALS : D G S
* MODEL FORMAT : SPICE3
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.0085 
RS 30 3 1E-006 
RG 20 2 202.55
CGS 2 3 1.425E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 2E-009 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 5.378E+005 ETA = 0.001 VTO = 0.8882 
+ TOX = 6E-008 NSUB = 1E+014 KP = 65.92 U0 = 400 KAPPA = 10 IS = 0 
.MODEL DCGD D CJO = 1.647E-010 VJ = 0.5 M = 0.449 
.MODEL DSUB D IS = 8.187E-008 N = 1.537 RS = 0.01064 BV = 20.71 
+ CJO = 2.59E-010 VJ = 0.6 M = 0.4816 
.MODEL DLIM D IS = 0.0001 
.ENDS
*Diodes Spice Model v1.0J Last Revised 2019/08/19
