* D:\Users\erics\Documents\Modular-Payload-System\Hardware\PS-010\Simulations\PS-010.asc
XU1 N016 N015 N017 Vin_5V MP_01 0 MP_02 N018 MP_03 0 MP_04 MP_05 Vin_5V PG_5VPB N022 N020 N015 0 PG_5V N021 LT8640
C1 N017 N018 0.1µ
L1 N018 N016 3.3µ
R1 N016 N021 1Meg
R2 N021 0 243k
C2 N016 N021 4.7p
C3 N016 0 47µ
C4 Vin_5V 0 1µ
C5 Vin_5V 0 1µ
C6 N020 0 1n
R3 N022 0 18.2k
R4 +5V PG_5V 100k
C7 N015 0 1µ
V1 Vsup Gsup PWL(0 0 10u 14)
L2 N009 Vin_5V 330n
C8 Vin_5V 0 2.2µ
C10 N011 0 47µ
R7 Vin_5V N011 0.1
R8 +5V 0 1.5625
R9 Vin Vsup {3.16m*stackHeight}
XU2 N032 N031 N033 Vin_12V MP_06 0 MP_07 N034 MP_08 0 MP_09 MP_10 Vin_12V PG_5VPB N038 N036 N031 0 PG_12V N037 LT8640
C11 N033 N034 0.1µ
L3 N034 N032 3.3µ
R10 N032 N037 1Meg
R11 N037 0 88k
C12 N032 N037 4.7p
C13 N032 0 47µ
C14 Vin_12V 0 1µ
C15 Vin_12V 0 1µ
C16 N036 0 1n
R12 N038 0 18.2k
R13 +5V PG_12V 100k
C17 N031 0 1µ
L4 N024 Vin_12V 220n
C18 Vin_12V 0 4.4µ
C20 N027 0 47µ
R16 Vin_12V N027 0.1
R17 +12V 0 3
R18 0 Gsup {2m*stackHeight}
XM2 N009 N010 Vin SQJ459EP
Q2 N010 N013 Vin 0 2N3906
R24 N012 N013 1k
R25 Vin N012 1k
C21 N012 0 47n
R26 N009 N014 470
C22 N014 N010 47n
R28 N010 0 10k
R19 Vin N010 1Meg
D2 N010 Vin BZX84C10L
D3 N012 Vin 1N914
XU3 N002 N003 N001 N008 NC_11 N007 N006 PG_5VPB Vin_5V Vin_5V 0 LT8606
C9 Vin_5V 0 1µ
C19 N001 0 1µ
C23 N002 N003 0.1µ
L5 N003 N004 10µ
R20 N007 0 187k
R21 N004 N007 1Meg
C24 N004 N007 10p
R22 N008 0 18.2k
C25 N006 0 1n
R23 +5V_preboot PG_5VPB 100k
C26 N004 0 10µ
XM1 N024 N026 Vin SQJ459EP
Q1 N026 N029 Vin 0 2N3906
R27 N028 N029 1k
R29 Vin N028 1k
C27 N028 0 47n
R30 N024 N030 470
C28 N030 N026 47n
R31 N026 0 10k
R32 Vin N026 1Meg
D4 N026 Vin BZX84C10L
D5 N028 Vin 1N914
XU4 N025 0 0 N019 N023 +5V LM5050-1
XU5 +5V N023 N019 +5V +5V +5V NMOS_SSM6K513NU
R33 Vin N025 100
C29 N025 0 0.1µ
XU6 N040 0 0 N035 N039 +12V LM5050-1
XU7 +12V N039 N035 +12V +12V +12V NMOS_SSM6K513NU
R34 Vin N040 100
C30 N040 0 0.1µ
D1 N004 N005 1N5817
R35 +5V_preboot N005 10
R36 N019 N016 10m
R37 N035 N032 10m
.model D D
.lib D:\Users\erics\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib D:\Users\erics\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
;.save V(Vin_5V)  V(EN_5V)  V(PG_5V)  V(+5V)  V(Vin_12V)  V(EN_12V)  V(PG_12V)  V(+12V) V(Vin) V(sup) I(V1)
.param stackHeight 5
.include SQJ459EP_PS_Rev_A.LIB
.include FDD86369_F085_LTspice.LIB
.lib D:\Users\erics\Documents\Modular-Payload-System\Hardware\PS-001\Simulation\LM5050-1.LIB
.lib LT8606.sub
.lib LT8640.sub
.lib SSM6K513NU.mod
.backanno
.end
